US07579449B2
1-(2,3,4,6-tetra-O-benzyl-β-D-glucopyranos-1-yl)-3-[4-(trimethylsilylethynyl)-benzyl]-4-methyl-benzene
Under argon, 27 mg copper iodide, 49 mg bis-(triphenylphosphine)-palladium dichloride, 0.30 ml triethylamine and finally 0.14 ml of trimethylsilylacetylene are added to a solution of 0.60 g 1-(2,3,4,6-tetra-O-benzyl-β-D-glucopyranos-1-yl)-3-[4-(trifluoromethylsulphonyloxy)-benzyl]-4-methyl-benzene in 3 ml of dimethylformamide. The flask is tightly sealed and stirred for 4 h at 90° C. Then another 20 mg of bis-(triphenylphosphine)-palladium dichloride and 0.6 ml trimethylsilylacetylene are added, and the solution is stirred for a further 4 h at 90° C. Then aqueous sodium hydrogen carbonate solution is added, the mixture is extracted three times with ethyl acetate, and the combined organic phases are dried over sodium sulphate. After the solvent has been eliminated the residue is chromatographed through silica gel (cyclohexane/ethyl acetate 40:1->10:1).

reactant | triethylamine | 0.30 ml | C(C)N(CC)CC | C6H15N
reactant | trimethylsilylacetylene | 0.14 ml | C[Si](C)(C)C#C | C5H10Si
reactant | 1-(2,3,4,6-tetra-O-benzyl-β-D-glucopyranos-1-yl)-3-[4-(trifluoromethylsulphonyloxy)-benzyl]-4-methyl-benzene | 0.60 g | C(C1=CC=CC=C1)O[C@H]1[C@](O)(O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)C1=CC(=C(C=C1)C)CC1=CC=C(C=C1)OS(=O)(=O)C(F)(F)F | C49H47F3O9S
reactant | trimethylsilylacetylene | 0.6 ml | C[Si](C)(C)C#C | C5H10Si
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
catalyst | copper iodide | 27 mg | [Cu](I)I
catalyst | bis-(triphenylphosphine)-palladium dichloride | 49 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | bis-(triphenylphosphine)-palladium dichloride | 20 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 1-(2,3,4,6-tetra-O-benzyl-β-D-glucopyranos-1-yl)-3-[4-(trimethylsilylethynyl)-benzyl]-4-methyl-benzene | C(C1=CC=CC=C1)O[C@H]1[C@](O)(O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)C1=CC(=C(C=C1)C)CC1=CC=C(C=C1)C#C[Si](C)(C)C | C53H56O6Si
